US08372867B2
To a solution of 1-{4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl]-2-nitrophenyl}methanamine (0.3 g) and acetic anhydride (0.1 g) in dichloromethane (50 mL), a solution of triethylamine (0.1 g) in dichloromethane (5 mL) was added dropwise under ice cooling, and the mixture was then stirred for one hour at room temperature. The reaction solution was diluted with water, and the organic layer was then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was then purified by silica gel chromatogaphy to yield N-{4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl]-2-nitrobenzyl}acetamide (0.2 g).

reactant | 1-{4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl]-2-nitrophenyl}methanamine | 0.3 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C=C1)CN)[N+](=O)[O-])C(F)(F)F | C17H12Cl2F3N3O3
reactant | acetic anhydride | 0.1 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 0.1 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N-{4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl]-2-nitrobenzyl}acetamide | 0.2 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(CNC(C)=O)C=C1)[N+](=O)[O-])C(F)(F)F | C19H14Cl2F3N3O4
